US09255090B2
Synthesis of 2,2,2-Trifluoro-1-(6-fluoro-9-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone (C13H13NO2F4, MW=291.09)
N-(2-Fluoro-5-methoxyphenethyl)-2,2-dimethoxyethanamine (3.0 g, 11.7 mmol, 1.0 eq.) was added dropwise to trifluoacetic anhydride (5.2 mL, 37.3 mmol, 3.2 eq.) at −15° C. The reaction mixture was allowed to warm to r.t. and stirred for 25 min. Then, trifluoroacetic acid (9.2 mL, 120.0 mmol, 10.3 eq.) was added and the resulting solution was heated to 40° C. for 18 hours. The reaction mixture was poured in cold water (100 mL). The mixture was extracted with DCM (3×50 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. To a solution under N2 of the residue in AcOEt/EtOH 1:1 (60 mL), palladium on activated carbon (10 wt. %, 400 mg) was added. The flask was evacuated and backfilled with H2 (3×). The black suspension was stirred at r.t. under an H2-atmosphere for 18 hours. The suspension was filtered through Celite, the Celite rinsed with EtOH. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane to Heptane+50% AcOEt) to yield the title compound as a white solid.

reactant | N-(2-Fluoro-5-methoxyphenethyl)-2,2-dimethoxyethanamine | 11.7 mmol, 3.0 g, 1.0 eq. | FC1=C(CCNCC(OC)OC)C=C(C=C1)OC | C13H20FNO3
reactant | trifluoroacetic acid | 120.0 mmol, 9.2 mL, 10.3 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 100 mL | O | H2O
product | 2,2,2-Trifluoro-1-(6-fluoro-9-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone | FC(C(=O)N1CCC2=C(CC1)C(=CC=C2OC)F)(F)F | C13H13F4NO2
